US04610983
In 75 ml of methylene chloride was dissolved 1.5 g of β-(2-furyl)acrylic acid, and 2.7 g of triethylamine and 1.3 g of ethyl chlorocarbonate were successively added thereto dropwise at -25° C. to -20° C. After 30 minutes, 3 g of the DL-2-amino-N5 -methyl-N1,N1 -di(n-propyl)-pentane-1,5-diamide hydrochloride was added to the above solution, and the resulting mixture was subjected to reaction at the same temperature for 30 minutes and at room temperature for 30 minutes. After completion of the reaction, the reaction mixture was washed successively with 30 ml of a 5% aqueous sodium hydroxide solution, 30 ml of diluted hydrochloric acid and 30 ml of water and then dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure to obtain 3.1 g (yield 80%) of DL-2-[β-(2-furyl)acrylamido]-N5 -methyl-N1,N1 -di(n-propyl)pentane-1,5-diamide having a melting point of 112°-113° C.

reactant | β-(2-furyl)acrylic acid | 1.5 g | O1C(=CC=C1)C=CC(=O)O | C7H6O3
reactant | triethylamine | 2.7 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 1.3 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-amino-N5 -methyl-N1,N1 -di(n-propyl)-pentane-1,5-diamide hydrochloride | Cl.NC(C(=O)N(CCC)CCC)CCC(=O)NC
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 2-[β-(2-furyl)acrylamido]-N5 -methyl-N1,N1 -di(n-propyl)pentane-1,5-diamide | yield 80% | O1C(=CC=C1)C=CC(=O)NC(C(=O)N(CCC)CCC)CCC(=O)NC | C19H29N3O4
